US05728701
2-[4-[2-[2-(4-pyridyl)piperazin-1-yl]acetyl]phenoxy]-isobutyric acid, dihydrobromide.
A mixture of methyl 2-[4-[2-[4-(4-pyridyl)piperazin-1-yl]-acetyl]phenoxy]isobutyrate (50 mg), 48% w/v hydrobromic acid (0.74 ml), dioxane (1 ml) and water (3 ml) was heated at 95° C. for 4 hours. The solution was cooled, diluted with water and freeze-dried to give the title compound, 40 mg, as a pale yellow solid: m.p. 163°-167° C.; NMR (D2O) δ 8.40 (2H, d), 8.16 (2H, d), 7.40 (2H, d), 7.21 (2H, d), 5.21 (2H, s), 4.32 (4H, b), 3.89 (4H, bt), 1.86 (6H, s); m/e 384 (M+H)+ ; calculated for C21H25N3.2HBr.2H2O: C, 43.3; H, 5.3; N, 7.2. found: C, 43.6; H, 5.3; N, 7.3%.

reactant | methyl 2-[4-[2-[4-(4-pyridyl)piperazin-1-yl]-acetyl]phenoxy]isobutyrate | 50 mg | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(OC(C(=O)OC)(C)C)C=C1 | C22H27N3O4
reactant | hydrobromic acid | 0.74 ml | Br | BrH
reactant | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 2-[4-[2-[2-(4-pyridyl)piperazin-1-yl]acetyl]phenoxy]-isobutyric acid, dihydrobromide | Br.Br.N1=CC=C(C=C1)C1N(CCNC1)CC(=O)C1=CC=C(OC(C(=O)O)(C)C)C=C1 | InChI=1S/C21H25N3O4.2BrH/c1-21(2,20(26)27)28-17-5-3-16(4-6-17)19(25)14-24-12-11-23-13-18(24)15-7-9-22-10-8-15;;/h3-10,18,23H,11-14H2,1-2H3,(H,26,27);2*1H
